US07179820B2
Sodium hydride (60% dispersion in oil, 2.5 mg, 0.063 mmol) was added to a solution of dimethyl 2-oxo-3-phenylpropylphosphonate (14 mg, 0.058 mmol) in THF (0.3 mL) at 0° C. After 1 h at 0° C. rt, 7-((R)-2-formyl-6-oxo-piperidin-1-yl)-hept-5-enoic acid methyl ester (crude from previous reaction, ˜0.062 mmol) in THF (0.7 mL) was added via cannula. The reaction was allowed to warm to rt. After 18 h at rt, the reaction was quenched with acetic acid (50% aqueous, 5 mL) and extracted with EtOAc (3×5 mL). The combined organic phase was washed brine (10 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→25% EtOAc/CH2Cl2, gradient) afforded 10 mg (42%) of 7-[(R)-2-oxo-6-((E)-3-oxo-4-phenyl-but-1-enyl)-piperidin-1-yl]-hept-5-enoic acid methyl ester.

reactant | Sodium hydride | 0.063 mmol, 2.5 mg | [H-].[Na+]
reactant | dimethyl 2-oxo-3-phenylpropylphosphonate | 0.058 mmol, 14 mg | O=C(CP(OC)(OC)=O)CC1=CC=CC=C1 | C11H15O4P
reactant | 7-((R)-2-formyl-6-oxo-piperidin-1-yl)-hept-5-enoic acid methyl ester | ˜0.062 mmol | COC(CCCC=CCN1[C@H](CCCC1=O)C=O)=O | C14H21NO4
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
product | 7-[(R)-2-oxo-6-((E)-3-oxo-4-phenyl-but-1-enyl)-piperidin-1-yl]-hept-5-enoic acid methyl ester | 10 mg, 42% | COC(CCCC=CCN1C(CCC[C@@H]1\C=C\C(CC1=CC=CC=C1)=O)=O)=O | C23H29NO4
